US09326973B2
A 1M solution of lithium tri-tert-butoxyaluminum hydride (8.79 mL, 8.79 mmol) was added dropwise to a cold (0° C.) stirred solution of diethyl tetrahydro-2H-pyran-2,2-dicarboxylate (0.810 g, 3.52 mmol) in an. THF (9 mL). After the addition is complete the mixture was allowed to warm to rt and heated to reflux for 4-5 h. The reaction mixture was cooled, diluted with ether and quenched with 20% NaHSO4 solution with vigorous stirring. The organic layer was separated, washed with brine and dried over MgSO4. The crude isolate was purified by silica gel FCC (5% MeOH in DCM) to afford ethyl 2-(hydroxymethyl)tetrahydro-2H-pyran-2-carboxylate as a clear oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 4.29 (q, J=7.0 Hz, 2H), 3.95-3.87 (m, 2H), 3.71 (dd, J=11.2, 8.2 Hz, 1H), 3.62 (dd, J=11.2, 5.1 Hz, 1H), 2.24-2.16 (m, J=8.0, 5.3 Hz, 1H), 2.14-2.06 (m, 1H), 1.84-1.72 (m, 1H), 1.64-1.50 (m, 4H), 1.37-1.29 (m, 3H).

reactant | lithium tri-tert-butoxyaluminum hydride | 8.79 mmol, 8.79 mL | [H-].C(C)(C)(C)O[Al](OC(C)(C)C)OC(C)(C)C.[Li+]
reactant | diethyl tetrahydro-2H-pyran-2,2-dicarboxylate | 3.52 mmol, 0.810 g | O1C(CCCC1)(C(=O)OCC)C(=O)OCC | C11H18O5
reactant | THF | 9 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | ethyl 2-(hydroxymethyl)tetrahydro-2H-pyran-2-carboxylate | OCC1(OCCCC1)C(=O)OCC | C9H16O4
